US04016281
A mixture of 4.17 g. of 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-nitro-1-tetralone hydrochloride, 20 g. of iron-(II) sulfate heptahydrate, 45 ml. of water and 0.15 ml. of concentrated hydrochloric acid is heated at 100° with stirring. 10 ml. of concentrated ammonium hydroxide solution are added at 80° and the mixture is heated for 10 minutes more on a steam bath. It is allowed to cool, extracted with chloroform and worked up to give 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-amino-1-tetralone.

reactant | 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-nitro-1-tetralone hydrochloride | Cl.C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)[N+](=O)[O-])=O)O
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | iron-(II) sulfate heptahydrate | O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Fe+2]
solvent | water | O | H2O
product | 2-(4-phenyl-4-hydroxypiperidinomethyl)-6-amino-1-tetralone | C1(=CC=CC=C1)C1(CCN(CC1)CC1C(C2=CC=C(C=C2CC1)N)=O)O | C22H26N2O2
